US04371536
At -10° C. methylmercaptan is introduced into 150 ml of tetrahydrofuran. Within 2 hours, at -10° C., 100 ml of 1.6 molar butyl lithium solution (hexane) is added dropwise thereto. The whole is then stirred for 30 minutes and the solvent is then distilled off in vacuo at a bath temperature of 20° C. The lithium methylmercaptide thus prepared is dissolved in 100 ml of N-methylpyrrolidone. 10.2 g of 6-bromo-4-methyl-β-carbolin-3-carboxylic acid ethyl ester is added thereto, and the whole is heated for 24 hours under argon protecting gas for 24 hours at 100° C. For work-up, the mixture is stirred into 400 ml of ice water, extracted with ethyl acetate, and the extracts are washed with water until neutral. The crude product obtained in this manner is dissolved in 250 ml of methanol and after the addition of 1 g of sodium methylate, is boiled for 6 hours. The solvent is then distilled off in vacuo, 150 ml of saturated sodium hydrogen phosphate solution is added to the residue and extraction with ethyl acetate is carried out. After washing with water until neutral, drying with sodium sulphate, filtering and distilling off the solvent, 8.85 g of 4-methyl-6-methylthio-β-carbolin-3-carboxylic acid methyl ester is obtained, which is crystallized from diisopropyl ether. Melting point 186°-193° C. (decomposition).

reactant | methylmercaptan | CS | CH4S
reactant | butyl lithium | 1.6 molar, 100 ml | C(CCC)[Li]
reactant | 6-bromo-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 10.2 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)Br | C15H13BrN2O2
reactant | sodium methylate | 1 g | C[O-].[Na+]
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 250 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-methyl-6-methylthio-β-carbolin-3-carboxylic acid methyl ester | 8.85 g | COC(=S)C=1N=CC=2NC3=CC=C(C=C3C2C1C)C | C15H14N2OS
